US07423147B2
Step A. 4-(5-Bromo-pyridin-3-ylmethyl)-morpholine.
The title compound was prepared in a similar way as described in Example 18, Step C, using 5-bromo-pyridine-3-carbaldehyde and morpholine. The crude compound was purified (SiO2: 0-3% 2 M NH3 in MeOH/DCM) to provide the title compound (61%).

reactant | 5-bromo-pyridine-3-carbaldehyde | BrC=1C=C(C=NC1)C=O | C6H4BrNO
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 4-(5-Bromo-pyridin-3-ylmethyl)-morpholine | 61% | BrC=1C=C(C=NC1)CN1CCOCC1 | C10H13BrN2O
